US09193744B2
1,4-Dioxane (350 mL) was added to a mixture of 6-bromo-1-(4-fluorophenyl)-1H-indazole (1, R1=4-Fluorophenyl) (29.6 g, 102 mmol), potassium acetate (25.0 g, 255 mmol), bis(pinacolato)diboron (31.0 g, 122 mmol), and 1,1′bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (2.50 g, 3.06 mmol) under a nitrogen atmosphere. The reaction vessel was evacuated then back-filled with nitrogen three times. The mixture was purged with nitrogen for about 30 min then warmed to about 90° C. After about 2 h, the reaction was allowed to cool to rt then concentrated to a volume of 100 mL. EtOAc (400 mL) and water (400 mL) were added. After stirring for about 1 h, the mixture was filtered. The layers were separated and the aqueous layer was extracted with EtOAc (100 mL). The combined organics were dried over Na2SO4, filtered and concentrated under reduced pressure to afford 1-(4-fluorophenyl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (95, R1=4-Fluorophenyl) as a dark drown residue. LC/MS, method 3, Rt=2.87 min, MS m/z 339 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.41 (d, J=0.9 Hz, 1H), 7.97-7.95 (m, 1H), 7.90 (dd, J=8.0, 0.9 Hz, 1H), 7.80-7.73 (m, 2H), 7.53 (dd, J=8.0, 0.7 Hz, 1H), 7.51-7.45 (m, 2H), 1.31 (s, 12H). THF (500 mL) was added to 1-(4-fluorophenyl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole under air, then the resulting solution was cooled to about 0° C. NaOH (2 M aqueous solution, 120 mL, 240 mmol) was added. H2O2 (30% aq. solution, 30.0 mL, 294 mmol) was added dropwise over about 30 min maintaining an internal temperature of about less than 10° C. After about 30 min, the mixture was diluted with water (400 mL). The pH was adjusted to about 2 with 2 M aq. HCl. EtOAc (500 mL) was added. The layers were separated and the organic layers was washed with water (200 mL) and sat. aq. NaCl (200 mL). The aqueous layers were extracted with EtOAc (2×200 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was triturated with DCM resulting in 1-(4-fluorophenyl)-1H-indazol-6-ol (R1=4-Fluorophenyl) (12.0 g, 52% yield) as a light tan solid. The mother liquor was purified on silica gel (220 g) using a gradient of 0-4% EtOAc in DCM. The fractions containing the first eluding diastereomer were combined and concentrated under reduced pressure to afford 1-(4-fluorophenyl)-1H-indazol-6-ol (96, R1=4-Fluorophenyl) (10.1 g, 43% yield) as a light tan solid. LC/MS, method 3, Rt=2.01 min, MS m/z 229 (M+H)+. 1H NMR (400 MHz, DMSO) δ 9.81 (s, 1H), 8.15 (d, J=0.9 Hz, 1H), 7.75-7.66 (m, 2H), 7.64 (d, J=9.0 Hz, 1H), 7.46-7.34 (m, 2H), 7.03-6.98 (m, 1H), 6.77 (dd, J=8.7, 2.0 Hz, 1H).

reactant | 1-(4-fluorophenyl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | FC1=CC=C(C=C1)N1N=CC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C19H20BFN2O2
reactant | NaOH | 240 mmol, 2 M, 120 mL | [OH-].[Na+]
reactant | H2O2 | 294 mmol, 30.0 mL | OO | H2O2
reactant | HCl | 2 M | Cl | ClH
solvent | water | 400 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)-1H-indazol-6-ol | 12.0 g, 52% yield | FC1=CC=C(C=C1)N1N=CC2=CC=C(C=C12)O | C13H9FN2O
